US09169177B2
Methylene chloride (M2) is reacted with chlorine in the liquid phase at 82° C. and 70 psig in the presence of a 40 watt UV black light in a 1 inch ID tube reactor jacketed with circulating water from a 15° C. temperature-regulated water bath at ambient pressure. The organic phase is analyzed on a Varian 6000 gas chromatograph equipped with a 30 meter DB-5 fused-silica capillary column. Using 69-70 minute residence time and a methylene chloride/chlorine molar feed ratio of 1.32, liquid product analysis shows 22.72 wt %, 53.3 wt %, and 24 wt % of the methylene chloride, chloroform, and tetrachloromethane, respectively. In other words, a 3/1 chloroform/tetrachloromethane molar product ratio is obtained at 66% methylene chloride conversion.

reactant | chlorine | ClCl | Cl2
reactant | water | O | H2O
reactant | methylene chloride chlorine | C(Cl)Cl.ClCl
reactant | tetrachloromethane | ClC(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | chloroform tetrachloromethane | C(Cl)(Cl)Cl.ClC(Cl)(Cl)Cl | InChI=1S/CCl4.CHCl3/c2-1(3,4)5;2-1(3)4/h;1H
